US07902385B2
Synthesis of 2-methyl-4-oxatricyclo[5.2.1.02,6]decan-3-yl acetate
A mixture of 63 g of 2-methyl-4-oxatricyclo[5.2.1.02,6]-decan-3-ol, 42 g of pyridine, and 51 g of acetic anhydride was heated at 50° C. for 5 hours. The reaction mixture was concentrated. The concentrate was purified by distillation, obtaining 74 g (yield 96%) of the target compound.

reactant | 2-methyl-4-oxatricyclo[5.2.1.02,6]-decan-3-ol | 63 g | CC12C3CCC(C2COC1O)C3 | C10H16O2
reactant | acetic anhydride | 51 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 42 g | N1=CC=CC=C1 | C5H5N
product | 2-methyl-4-oxatricyclo[5.2.1.02,6]decan-3-yl acetate | 74 g, yield 96% | C(C)(=O)OC1C2(C3CCC(C2CO1)C3)C | C12H18O3
